US09353075B2
Step 3. Preparation of 3-phenylpropyl-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate
In a four necked round bottom flask, Et3N (1.4 ml, 10.1 mmol) was added to a solution of (2R,3S)-3-hydroxy-2-{[(3-phenylpropoxy)carbonyl]amino}butanoic acid (0.95 g, 3.38 mmol) in dry CH2Cl2 (40 mL) under argon. After cooling at 0° C., HBTU (1.92 g, 5.07 mmol, 1.5 eq) was added and the mixture stirred 3 h at 0° C., then 16 h at rt. The obtained solid was filtered off and the solvent removed under vacuum. The crude was purified by typical silica gel column chromatography, eluting with Cy/AcOEt (from 95:5 to 60:40). The resulting white solid (0.280 g) was further triturated with cyclohexane to afford the pure title compound (0.240 g, 31%), as white solid. MS (ESI) m/z: 262.27 [M−H]−. Rf=0.29 (Cy/EtOAc 8:2; detection: phosphomolybdic acid). FTIR (cm−1): 3328, 3064, 3030, 2972, 2929, 2859, 1851, 1691, 1542, 1333, 1270, 1130, 1083, 1024, 843, 822, 697. 1H NMR (CDCl3): δ 1.46 (d, 3H); 1.93-2.00 (m, 2H); 2.67-2.71 (m, 2H); 4.09-4.18 (m, 2H); 4.84-4.90 (m, 1H); 5.38-5.48 (m, 2H); 7.11-7.31 (m, 5H).

reactant | Et3N | 10.1 mmol, 1.4 ml | CCN(CC)CC | C6H15N
reactant | (2R,3S)-3-hydroxy-2-{[(3-phenylpropoxy)carbonyl]amino}butanoic acid | 3.38 mmol, 0.95 g | O[C@H]([C@H](C(=O)O)NC(=O)OCCCC1=CC=CC=C1)C | C14H19NO5
reactant | HBTU | 5.07 mmol, 1.92 g, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-phenylpropyl-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate | 0.240 g, 31% | C1(=CC=CC=C1)CCCOC(N[C@@H]1[C@@H](OC1=O)C)=O | C14H17NO4
